US07060844B2
3-{6-[(2,4-Dimethoxy-benzyl)-methyl-amino]-3H-isobenzofuran-1-ylidene}-1-hydroxymethyl-1,3-dihydro-indol-2-one
To a stirred suspension of 3-[6-(2,4-dimethoxy-benzylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one (1 g, 2.41 mmol) and 37% formaldehyde aqueous solution (2 ml, 27 mmol) in acetonitrile (30 ml), was added sodium cyanoborohydride (606 mg, 9.64 mmol). The mixture was stirred at room temperature for 2 hours, and 10% AcOH aqueous solution (30 ml) was added. The mixture was continuously stirred for another 10 minutes. The yellow precipitate separated, washed with MeOH and dried under vacuum to give a crude product. Recrystallization of the crude product with MeOH led to 3-{6-[(2,4-dimethoxy-benzyl)-methyl-amino]-3H-isobenzofuran-1-ylidene}-1-hydroxymethyl-1,3-dihydro-indol-2-one as yellow needles (0.9 g, 82%).

reactant | 3-[6-(2,4-dimethoxy-benzylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 2.41 mmol, 1 g | COC1=C(CNC2=CC=C3COC(C3=C2)=C2C(NC3=CC=CC=C23)=O)C=CC(=C1)OC | C25H22N2O4
reactant | formaldehyde | 27 mmol, 2 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 9.64 mmol, 606 mg | C(#N)[BH3-].[Na+]
reactant | AcOH | 30 ml | CC(=O)O | C2H4O2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-{6-[(2,4-Dimethoxy-benzyl)-methyl-amino]-3H-isobenzofuran-1-ylidene}-1-hydroxymethyl-1,3-dihydro-indol-2-one | COC1=C(CN(C2=CC=C3COC(C3=C2)=C2C(N(C3=CC=CC=C23)CO)=O)C)C=CC(=C1)OC | C27H26N2O5
